Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is an ___ female with history
significant for dementia and gait instability, who presents 
after
a mechanical fall, no e/o traumatic injuries, found to have
asymptomatic bacteriuria. 

Patient was in her usual state of health when she fell around 4
AM when she was on her way to use the restroom. Her husband 
heard
the fall and went to check in on her and found her lying on a 
wet
floor. He thinks she slipped. She struck her right knee and 
right
elbow. She denies head strike or LOC. She denies any head pain 
or
neck pain. Patient does not remember the exact circumstances
surrounding her fall. She denies any dizziness or lightheadness,
diaphoresis, or palpitations just prior to the fall. She did not
want to call the ambulance and tried to get her husband to help
her up to the couch. She laid there until about 10 AM, unable to
get up herself and until her husband tired out and decided to
call ___. Patient denied any CP, SOB, or abdominal pain. 

In the ED, initial vitals were: T97.5F, HR 98, BP 166/66, RR 16,
O2Sat 96% 

Exam was notable for:
Constitutional: NAD. 
HEENT: NCAT, PERRLA, EOMI. 
Neck: no midline tenderness to palpation. Full ROM without pain
Chest/Resp: CTAB.
Cardiovascular: RRR, Normal S1/S2.
Abdomen: Soft, NTND. 
MSK: edema and ecchymosis over right elbow, able to move full
rom. right knee with swelling, ecchymosis.

Labs were notable for: (use specific numbers)
CBC: Hgb 10.6, unclear baseline 
BMP: BUN/Cr: 37/1.4, unclear baseline 
CK: 362
UA: ___, Nit+ 
UTox: negative 

Studies were notable for: 
CT Head and CSpine: no acute abnormalities or fractures. 
Although
evidence of ventricular enlargement out of proportion to the
sulci, potentially due to disproportionate central volume loss. 

Right elbow, knee, and ankle: no fractures

ECG: sinus rhythm, abnormal R-wave progression, early transition 


The patient was given:
- 1g CTX given UA findings c/f UTI 

On arrival to the floor, patient is lying in her bed in NAD.
Conversations were held in ___ with assistance of Vartan
Pahalyants. She insists that she feels fine and has no medical
problems. She is uncomfortable in her bed and wants to sit,
otherwise no complaints. She denies any dizziness, 
lightheadness,
palpitations, chest pain, SOB, nausea, vomiting, diarrhea,
constipation, dysuria, muscle or bone pain. 

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.

 
Past Medical History:
HTN
CKD
Vertigo
Mild cognitive disorder 
Vitamin D deficiency 
Gout
Monoclonal gammopathy of unknown significance (IgM)
 
Social History:
___
Family History:
Her mother died of a stroke in her ___. 
Her father died of stomach cancer. 
Her daughter has hypertension. 

 
Physical Exam:
Admission Physical Exam
=======================
VITALS: ___ Temp: 99.5 PO BP: 161/76 HR: 83 RR: 18 O2
sat: 95% O2 delivery: RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. Round hyperpigmented plaque on right
face. 
NEUROLOGIC: AOx2 (name, place, does not know the date or year).
CN2-12 intact. Moving all 4 limbs spontaneously. ___ strength
throughout. Normal sensation.

Discharge Physical Exam
=======================
VS: ___ 1522 Temp: 98.4 PO BP: 177/75 HR: 97 RR: 18 O2 sat: 
95% O2 delivery: RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
Hyperpigmented plaque noted on right cheek
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally. Ecchymosis noted on medial right elbow and on right
knee
SKIN: Warm. Cap refill <2s. Round hyperpigmented plaque on right
face. 
NEUROLOGIC: AOx2 (name, place, does not know the date or year).
CN2-12 intact. Moving all 4 limbs spontaneously. ___ strength
throughout. Normal sensation.

 
Pertinent Results:
___ 01:02PM BLOOD WBC-9.8 RBC-3.50* Hgb-10.6* Hct-32.4* 
MCV-93 MCH-30.3 MCHC-32.7 RDW-12.6 RDWSD-42.7 Plt ___
___ 05:38AM BLOOD WBC-7.1 RBC-3.33* Hgb-10.0* Hct-31.6* 
MCV-95 MCH-30.0 MCHC-31.6* RDW-12.7 RDWSD-43.6 Plt ___
___ 06:03AM BLOOD WBC-6.1 RBC-3.35* Hgb-10.0* Hct-31.3* 
MCV-93 MCH-29.9 MCHC-31.9* RDW-12.8 RDWSD-43.8 Plt ___
___ 01:02PM BLOOD Neuts-82.7* Lymphs-11.5* Monos-5.2 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-8.09* AbsLymp-1.12* 
AbsMono-0.51 AbsEos-0.00* AbsBaso-0.01
___ 01:02PM BLOOD Plt ___
___ 05:38AM BLOOD Plt ___
___ 06:03AM BLOOD Plt ___
___ 01:02PM BLOOD Glucose-134* UreaN-37* Creat-1.4* Na-141 
K-3.8 Cl-102 HCO3-19* AnGap-20*
___ 06:03AM BLOOD Glucose-125* UreaN-34* Creat-1.4* Na-145 
K-3.6 Cl-108 HCO3-21* AnGap-16
___ 06:26PM BLOOD CK(CPK)-309*
___ 01:02PM BLOOD CK(CPK)-362*
___ 01:02PM BLOOD cTropnT-<0.01
___ 01:02PM BLOOD Calcium-9.1 Phos-2.6* Mg-1.8
___ 06:03AM BLOOD Calcium-9.0 Phos-3.2 Mg-1.8
___ 06:26PM BLOOD ___ Folate-10
___ 06:26PM BLOOD TSH-0.18*
___ 06:03AM BLOOD Free T4-1.4
___ 06:26PM BLOOD 25VitD-17*
___ 06:26PM BLOOD Trep Ab-NEG
___ 06:26PM BLOOD HIV Ab-NEG
___ 01:02PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 01:26PM BLOOD Glucose-138* Lactate-1.2 Creat-1.3* 
Na-139 K-3.5 Cl-107
___ 01:26PM BLOOD ___ pO2-99 pCO2-35 pH-7.43 
calTCO2-24 Base XS-0 Comment-GREEN TOP
___ 01:26PM BLOOD Hgb-11.0* calcHCT-33

Imaging
=======

Elbow XRAY ___

IMPRESSION:  
  
Swelling over the dorsal aspect of the proximal forearm.  No 
fracture. 

Ankle XRAY ___
 
IMPRESSION:  
  
No fracture. 

Knee XRAY- ___

IMPRESSION:  
  
No fracture 

CT HEAD W/out contrast ___

IMPRESSION:  
  
No evidence of acute intracranial process. 
Ventricular enlargement out of proportion to the sulci, 
potentially due to 
disproportionate central volume loss.  Correlate clinically 
regarding 
possibility of NPH. 

CT C-SPINE ___

IMPRESSION:  
  
No acute fracture or traumatic malalignment of the cervical 
spine 

 
Brief Hospital Course:
Mrs. ___ is an ___ female with history
significant for dementia and gait instability, who presents 
after
a mechanical fall, no e/o traumatic injuries on exam or imaging,
found to have bacteriuria on urine studies and treated for 
suspected UTI. 

TRANSITIONAL ISSUES
===================
[ ] Blood pressure medication regimen changed while patient was 
hospitalized: 
 - Given poor BP control, metoprolol was discontinued, and 
carvedilol 3.125mg BID was started
 - Given concern that her evening dose of Diovan (which contains 
HCTZ, a diuretic) was causing nocturia, and possibly 
precipitating falls, the patient's Diovan was stopped and was 
changed to valsartan 160mg BID and HCTZ 25mg daily (to take in 
the morning). 
[ ] Please closely monitor blood pressure in the outpatient 
setting, and up-titrate medications as needed. 

[ ] Inpatient work-up for NPH considered, but patient reluctant 
to pursue LP. Referred to neurology on discharge, can consider 
outpatient work-up. Of note, CT head did note ventriculomegaly, 
possibly consistent with NPH. 
[ ] Patient found to have TSH of 0.18 but a normal free T4 of 
1.4; drawn as part of work-up to help rule our reversible causes 
of her memory problems. We recommend outpatient followup with a 
repeat TSH
[ ] Patient was found to have a low Vit D of 17, was discharged 
with daily ___ units. We recommend outpatient follow up to 
monitor Vit D level and ongoing need for repletion. 
[ ] Family expressing concern that patient has depression, and 
has been reluctant to engage with provided care. She would 
benefit from outpatient social work referral and possible 
psychiatry/therapy referral, possible consideration of starting 
SSRI. 
[ ] Please continue to encourage the patient to use her walker 
at home. 
[ ] Patient discharged with home ___, OT, ___, and home health 
aide. Patient's family provided with resources on private pay 
home health care services for additional supervision at home. 
[ ] Consider outpatient referral for formal cognitive 
evaluation. 

ACUTE/ACTIVE ISSUES:
====================
# Fall 
# Chronic gait instability 
# ?Vertigo
Patient has been previously seen by neurology in ___ for gait
instability, thus suspect that her fall is mechanical. She
stopped taking meclezine as outpatient, which was prescribed to
her for vertigo, as it was not helping. She has refused to use
assistive devices at home, although has a walker and has been 
recommended to use this. She also has history of orthostasis per 
family, although patient adamantly denies it. She has had 
urinary incontinence x2 days, and urine culture grew E.coli, so 
she was treated with CTX for suspected infection that may have 
contributed to her fall. Low suspicion for arrythmias given 
normal BMP and no history of palpitations. No arrhythmia 
observed on telemetry. Orthostatic hypotension is a possible due 
to her decreased PO intake, however orthostasis were checked and 
found to be negative. She has no new neurological deficits to 
suggest a TIA. She denies LOC, reassuring against vasovagal 
syncope as the etiology of her fall. We consulted ___ who 
recommended discharge at home with services, no rehab needs as 
it was felt that her fall was mechanical and that patient was at 
her baseline. 

# UTI and urinary incontinence 
Patient without leukocytosis, but with UA with ___. UCx
grew E. Coli, and patient endorsed incontinence over the 
preceding 2 days. We treated her with ceftriaxone for 3 days, 
last dose on ___. Will require outpatient monitoring to ensure 
resolution of her sxs. 

# Dementia 
Patient has history of worsening short term memory over the last
couple of years. Just over a year ago, she got lost when outside
her house and since then she has been staying inside. Does not
remember the date or year on exam. Her symptoms, duration, and
progression of her disease is most consistent with Alzheimer's
dementia. CT Head with dilated ventricles, gait instability, and
history of frequent urination raises suspicion for NPH. She
opted against LP for NPH workup, given our relatively low 
suspicion at this time, but consented to HIV/syphilis blood work 
to rule out other possible causes of dementia. She had negative 
HIV, normal B12, negative RPR, with a low TSH and normal free 
T4. We recommend followup with outpatient neurologist, can 
consider LP going forward if within GOC. 

# HTN 
Patient was on combination valsartan-HCTZ BID at home. Non 
formulary here. BPs were elevated. We stopped her home 
metoprolol and started carvedolol BID to help
better manage her blood pressure. We also stopped Diovan (given 
concern that HCTZ component was causing nocturia, and increasing 
her fall risk), and instead started valsartan 160mg BID and HCTZ 
25mg daily (to take in the morning). 

CHRONIC/STABLE ISSUES:
======================
# CKD (baseline Cr. 1.5)
Patient Cr at baseline, was 1.4 at discharge. Encouraged PO 
intake. 

# MGUS
Patient noted to have elevated IgM to 687 in ___. CBC with diff
unremarkable. Cr stable, no hyperCa, no history of bone
tenderness and no lytic lesions noted on recent imaging. She has
declined further work up in the past, given low suspicion for
progression to myeloma will defer further work up. 

CORE MEASURES:
=============
# EMERGENCY CONTACT: ___ ___ (grandson) 
# HCP: ___ ___ (son in law) 
# DISPO: Medicine pending ___ evaluation 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diovan HCT (valsartan-hydrochlorothiazide) 160-12.5 mg oral 
BID HTN 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Metoprolol Tartrate 50 mg PO BID HTN 
4. Allopurinol ___ mg PO DAILY Gout 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg 1 tablet(s) by mouth three times a day 
Disp #*50 Tablet Refills:*0 
2.  CARVedilol 3.125 mg PO BID 
RX *carvedilol 3.125 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 2 tablet(s) by mouth once a day, 
in the morning Disp #*60 Tablet Refills:*0 
4.  Valsartan 160 mg PO BID 
RX *valsartan 160 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
5.  Vitamin D ___ UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 50 mcg (2,000 unit) 1 capsule(s) 
by mouth once a day Disp #*60 Capsule Refills:*0 
6.  Allopurinol ___ mg PO DAILY Gout  
7.  Cyanocobalamin 1000 mcg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
=================
Fall
HTN
Dementia
Asymptomatic bacteriuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came into the hospital because of your fall at home

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had imaging to look for fractures. You had CT head of your 
head, which did not show any bleeding in your head or fractures. 
You also had imagining of your spine, elbow, knee and ankle 
which did not show any fractures. You have urine that showed 
bacteria in your urine. You were given antibiotics to treat your 
urinary infection. You had blood work to find some cause of your 
memory problems, HIV was negative, Syphilis was negative. You 
had physical therapy see you and they felt you are well to go 
home

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___